### PR TITLE
[Merged by Bors] - feat: generalize some lemmas by using conditional Jensen

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR includes two possible ways of generalizing `integral_abs_condExp_le`:

1. Replace absolute values with norms.
2. Consider absolute values defined on a lattice with a solid norm.

We also prove that if a function is in Lp then its conditional expectation is also in Lp. In order to prove these results, some of the lemmas about essSup are generalized to conditionally complete lattices.

Created with the help of Codex.

---

- [x] depends on: #36877
- [x] depends on: #39104 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 1]
```diff
@@ -55,106 +54,145 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  rw [← ofReal_lpNorm, ← ofReal_lpNorm]
+  · exact ENNReal.ofReal_le_ofReal (lpNorm_condExp_le_lpNorm hp hpt hf)
+  · exact (integrable_norm_rpow_iff hfint.1 hp'.ne.symm hpt).1 hf
+  · rw [← integrable_norm_rpow_iff integrable_condExp.1 hp'.ne.symm hpt]
+    have hp : 1 ≤ p.toReal := by
+      rwa [← ENNReal.toReal_one, ENNReal.toReal_le_toReal ENNReal.one_ne_top hpt]
+    have := AEStronglyMeasurable.norm_rpow_condExp_le (m := m) hp hf
+    refine Integrable.mono_nonneg integrable_condExp ?_ ?_ this
+    · exact (Real.continuous_rpow_const (zero_le_one.trans hp)).comp_aestronglyMeasurable
+        integrable_condExp.norm.1
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Maybe it makes sense to have a lemma `AEStronglyMeasurable.rpow_const`? I would imagine this can be pretty useful for the manipulations of LpNorm.

**Comment by CoolRmal** [comment]
After generalization, I think the name of the file ‎Mathlib.MeasureTheory.Function.ConditionalExpectation.Real is not very suitable as these lemmas are no longer only about real-valued functions. Should I change the name of the file or move these lemmas to somewhere else?

**Comment by CoolRmal** [comment]
- WIP

**Comment by RemyDegenne** [comment]
Could you open a new PR for the EssSup changes only?

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean [hunk 2]
```diff
@@ -221,6 +221,25 @@ theorem norm_condExp_le : (‖μ[f | m] ·‖) ≤ᵐ[μ] μ[(‖f ·‖) | m] :
...
+  by_cases! hf_int : ¬ Integrable f μ
+  · simp only [condExp_of_not_integrable hf_int, Pi.zero_apply, norm_zero,
+      Real.zero_rpow hp'.ne.symm]
+    apply condExp_nonneg
+    filter_upwards with a; positivity
+  have hl := (Real.continuous_rpow_const hp'.le).lowerSemicontinuous.lowerSemicontinuousOn (Ici 0)
+  have := (convexOn_rpow hp).map_condExp_le hm hl ?_ isClosed_Ici hf_int.norm hfint
+  · filter_upwards [norm_condExp_le (f := f), this] with a ha hb
+    exact (Real.rpow_le_rpow (norm_nonneg _) ha hp'.le).trans hb
+  · filter_upwards with a; simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean]:
```suggestion
  have := (convexOn_rpow hp).map_condExp_le hm hl (by simp) isClosed_Ici hf_int.norm hfint
  filter_upwards [norm_condExp_le (f := f), this] with a ha hb
  exact (Real.rpow_le_rpow (norm_nonneg _) ha hp'.le).trans hb
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean [hunk 3]
```diff
@@ -221,6 +221,25 @@ theorem norm_condExp_le : (‖μ[f | m] ·‖) ≤ᵐ[μ] μ[(‖f ·‖) | m] :
...
+  by_cases! hμm : ¬ SigmaFinite (μ.trim hm)
+  · simp [condExp_of_not_sigmaFinite hm hμm, Real.zero_rpow hp'.ne.symm]; aesop
+  by_cases! hf_int : ¬ Integrable f μ
+  · simp only [condExp_of_not_integrable hf_int, Pi.zero_apply, norm_zero,
+      Real.zero_rpow hp'.ne.symm]
+    apply condExp_nonneg
+    filter_upwards with a; positivity
+  have hl := (Real.continuous_rpow_const hp'.le).lowerSemicontinuous.lowerSemicontinuousOn (Ici 0)
+  have := (convexOn_rpow hp).map_condExp_le hm hl ?_ isClosed_Ici hf_int.norm hfint
+  · filter_upwards [norm_condExp_le (f := f), this] with a ha hb
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean]: Should `f` be explicit in `norm_conExp_le`?

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 4]
```diff
@@ -5,7 +5,8 @@ Authors: Rémy Degenne, Kexing Ying
 -/
 module
 
-public import Mathlib.MeasureTheory.Function.ConditionalExpectation.Indicator
+public import Mathlib.MeasureTheory.Function.ConditionalExpectation.CondJensen
+public import Mathlib.MeasureTheory.Function.LpSeminorm.LpNorm
 public import Mathlib.MeasureTheory.Function.UniformIntegrable
 public import Mathlib.MeasureTheory.VectorMeasure.Decomposition.RadonNikodym
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Here is a minimization of public imports:
```suggestion
public import Mathlib.MeasureTheory.Function.ConditionalExpectation.Basic
public import Mathlib.MeasureTheory.Function.UniformIntegrable
public import Mathlib.MeasureTheory.VectorMeasure.Decomposition.Lebesgue

import Mathlib.MeasureTheory.Function.ConditionalExpectation.CondJensen
import Mathlib.MeasureTheory.Function.LpSeminorm.LpNorm
import Mathlib.MeasureTheory.VectorMeasure.Decomposition.RadonNikodym
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 5]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
-theorem setIntegral_abs_condExp_le {s : Set α} (hs : MeasurableSet[m] s) (f : α → ℝ) :
-    ∫ x in s, |(μ[f | m]) x| ∂μ ≤ ∫ x in s, |f x| ∂μ := by
-  by_cases hnm : m ≤ m0
-  swap
-  · simp_rw [condExp_of_not_le hnm, Pi.zero_apply, abs_zero, integral_zero]
+theorem MemLp.isBoundedUnder {f : α → E} (hf : MemLp f ∞ μ) :
+    IsBoundedUnder (fun x1 x2 ↦ x1 ≤ x2) (ae μ) fun x ↦ ‖f x‖ :=
+  ⟨_, ae_le_lpNorm_exponent_top hf⟩
+
+theorem isCoboundedUnder_le_norm [NeZero μ] {f : α → E} :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: These aren't related to `condExp` so they should go elsewhere.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 6]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+    IsCoboundedUnder (fun x1 x2 ↦ x1 ≤ x2) (ae μ) fun x ↦ ‖f x‖ :=
+  isCoboundedUnder_le_of_le (x := 0) _ (fun _ => norm_nonneg _)
+
+variable [NormedSpace ℝ E] [CompleteSpace E]
+
+theorem integral_norm_condExp_rpow_le {p : ℝ} (hp : 1 ≤ p) {f : α → E}
+    (hf : Integrable (fun x => ‖f x‖ ^ p) μ) :
+    ∫ x, ‖(μ[f | m]) x‖ ^ p ∂μ ≤ ∫ x, ‖f x‖ ^ p ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Why do you put parentheses?
```suggestion
    ∫ x, ‖μ[f | m] x‖ ^ p ∂μ ≤ ∫ x, ‖f x‖ ^ p ∂μ := by
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 7]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
-    (le_of_eq <| integral_congr_ae <| Eventually.of_forall fun x => ?_)
-  simp_rw [← Real.norm_eq_abs, norm_indicator_eq_indicator_norm]
+  calc
+  _ ≤ ∫ x, μ[(fun x => ‖f x‖ ^ p) | m] x ∂μ := by
+    refine integral_mono_of_nonneg ?_ integrable_condExp ?_
+    · filter_upwards with a; positivity
+    · exact Integrable.norm_condExp_rpow_le hp hf
+  _ = _ := integral_condExp hm
+
+theorem integral_norm_condExp_le (f : α → E) : ∫ x, ‖(μ[f | m]) x‖ ∂μ ≤ ∫ x, ‖f x‖ ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: same

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 8]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  by_cases! hfint : ¬ Integrable f μ
+  · simpa [condExp_of_not_integrable hfint] using integral_nonneg (fun x => norm_nonneg (f x))
+  have : Integrable (fun x => ‖f x‖ ^ (1 : ℝ)) μ := by simpa using hfint.norm
+  simpa using integral_norm_condExp_rpow_le (refl 1) this
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
  simpa using integral_norm_condExp_rpow_le le_rfl (by simpa using hfint.norm)
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 9]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  have hp' : 0 < p := by linarith
+  by_cases! hm : ¬ m ≤ m0
+  · simp only [condExp_of_not_le hm, Pi.zero_apply, _root_.norm_zero,
+      Real.zero_rpow hp'.ne.symm, integral_zero]
     positivity
-  by_cases hfint : Integrable f μ
-  swap
-  · simp only [condExp_of_not_integrable hfint, Pi.zero_apply, abs_zero, integral_const,
-      smul_eq_mul, mul_zero]
+  by_cases! hsig : ¬ SigmaFinite (μ.trim hm)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean:96]: I think that if you prove a lemma saying
```lean
∫ x, (μ[f | m]) x ∂μ ≤ ∫ x, f x ∂μ
```
when `f` is nonnegative which does not assume `SigmaFinite _` or `m ≤ m0` you will avoid the case splitting here. Maybe something similar is possible for the `setIntegral` version.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 10]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+    [IsOrderedModule ℝ E] {f : α → E} {c : E} (hc : 0 ≤ c) (hfc : ∀ᵐ x ∂μ, f x ≤ c) :
+    ∀ᵐ x ∂μ, μ[f | m] x ≤ c := by
+  by_cases! hm : ¬ m ≤ m0
+  · filter_upwards with a using by simp_all [condExp_of_not_le hm]
+  by_cases! hfint : ¬ Integrable f μ
+  · filter_upwards with a using by simp_all [condExp_of_not_integrable hfint]
+  by_cases! hsig : ¬ SigmaFinite (μ.trim hm)
+  · filter_upwards with a using by simp_all [condExp_of_not_sigmaFinite hm hsig]
+  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null
+    (fun t ⟨n, hn⟩ => ?_) fun t ⟨n, hn⟩ => hn ▸ ?_
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I think this is nicer, it will avoid `▸`.

```suggestion
  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null ?_ ?_
  rintro - ⟨n, rfl⟩
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 11]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  · exact hn ▸ hm _ (measurableSet_spanningSets (μ.trim hm) n)
+  have h1 := condExp_restrict_ae_eq_restrict hm (measurableSet_spanningSets (μ.trim hm) n) hfint
+  have : IsFiniteMeasure (μ.restrict (spanningSets (μ.trim hm) n)) := isFiniteMeasure_restrict.2
+    ((le_trim hm).trans_lt (measure_spanningSets_lt_top (μ.trim hm) n)).ne
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I wonder wether this could be an instance.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 12]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  have h2 := condExp_mono (μ := (μ.restrict (spanningSets (μ.trim hm) n))) (m := m)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: parentheses

```suggestion
  have h2 := condExp_mono (μ := μ.restrict (spanningSets (μ.trim hm) n)) (m := m)
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 13]
```diff
@@ -55,88 +54,187 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+    hfint.restrict (integrable_const c) (ae_restrict_of_ae hfc)
+  filter_upwards [h1, h2] with a ha hb
+  rwa [← ha, ← congrFun (condExp_const (μ := (μ.restrict (spanningSets (μ.trim hm) n))) hm c) a]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
  grw [← ha, hb, condExp_const hm]
```

**Review by EtienneC30 — COMMENTED** [review]
Here is a first wave of comments.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 10 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Is this code style mentioned somewhere? I am happy to make the change, but I am just curious.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Do you mean the `rintro` thing or the `▸`? Regarding `▸`, it was discussed in the reviewer stream that it was more fragile than a `rw`, and less readable. It should be avoided apart from simple one-liners.
Concerning `rintro` it's just a leftover from the time where `intro` did not support pattern matching, but `intro` still does not support `-` which allows to discard the variable that is rewritten with `rfl`.

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I meant `▸`, thanks for your explanation!

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 11 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I created an instance in Measure.Trim.lean and use it to golf `sigmaFiniteTrim_mono`.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 5 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: As they are short and only used once in my PR, I deleted them.

Also the lemmas in this PR are generalized so that they no longer only apply to real valued functions, should we also change the name of this file, or maybe just move them to somewhere else?

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 9 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean:96]: I created two sections. The first section is for theorems about `HasSolidNorm` and the second section is for the ones about `NormedSpace`. I proved `integral_condExp_le_of_ae_nonneg` and `setIntegral_condExp_le_of_ae_nonneg` as corollaries of `integral_abs_condExp_le` and `setIntegral_abs_condExp_le` in the section `HasSolidNorm`. The first one is then used to golf `integral_norm_condExp_rpow_le`

File: Mathlib/Probability/Process/Stopping.lean [hunk 14]
```diff
@@ -9,6 +9,8 @@ public import Mathlib.Probability.Process.Adapted
 public import Mathlib.MeasureTheory.Constructions.BorelSpace.WithTop
 public import Mathlib.Data.ENat.Lattice
 
+import Mathlib.MeasureTheory.Function.ConditionalExpectation.Indicator
```
Comment (CoolRmal) [inline Mathlib/Probability/Process/Stopping.lean]: Probably a consequence of the minimization of the import in [Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean‎](https://github.com/leanprover-community/mathlib4/pull/36888/changes#diff-c53086d970538228dd848cb0fcf7b65ade65fac7eba3a9d67a6e479e686703ab)

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 4 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I still keep a large public import right now in order to successfully pass the CI. Once we decide whether we should keep these lemmas in this file I'll figure out the minimization.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 1 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Yes I think that's a good idea.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 15]
```diff
@@ -169,6 +186,108 @@ theorem ae_bdd_condExp_of_ae_bdd {R : ℝ≥0} {f : α → ℝ} (hbdd : ∀ᵐ x
...
+    have := Integrable.norm_condExp_rpow_le (m := m) hp <|
+      (integrable_norm_rpow_iff hf.1 hp'.ne.symm hpt).2 hf
+    refine Integrable.mono_nonneg integrable_condExp ?_ ?_ this
+    · exact (Real.continuous_rpow_const (zero_le_one.trans hp)).comp_aestronglyMeasurable
+        integrable_condExp.norm.1
+    · filter_upwards with a; positivity
+  · simp_all only
+    exact memLp_top_of_bound integrable_condExp.1 (essSup (‖f ·‖) μ) hf.ae_norm_condExp_le_essSup
+
+theorem MemLp.eLpNorm_condExp_le_eLpNorm {f : α → E} {p : ℝ≥0∞} (hp : 1 ≤ p) (hf : MemLp f p μ) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Does this require `MemLp`? The original version with `p := 2` does not, because if it is not in Lp the right-hand side is infinite.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 16]
```diff
@@ -55,88 +56,104 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+
+lemma condExp_le_nonneg_const [PartialOrder E] [ClosedIciTopology E] [IsOrderedAddMonoid E]
+    [IsOrderedModule ℝ E] {f : α → E} {c : E} (hc : 0 ≤ c) (hfc : ∀ᵐ x ∂μ, f x ≤ c) :
+    ∀ᵐ x ∂μ, μ[f | m] x ≤ c := by
+  by_cases! hm : ¬ m ≤ m0
+  · filter_upwards with a using by simp_all [condExp_of_not_le hm]
+  by_cases! hfint : ¬ Integrable f μ
+  · filter_upwards with a using by simp_all [condExp_of_not_integrable hfint]
+  by_cases! hsig : ¬ SigmaFinite (μ.trim hm)
+  · filter_upwards with a using by simp_all [condExp_of_not_sigmaFinite hm hsig]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
  · filter_upwards with a using by simpa [condExp_of_not_le hm]
  by_cases! hfint : ¬ Integrable f μ
  · filter_upwards with a using by simpa [condExp_of_not_integrable hfint]
  by_cases! hsig : ¬ SigmaFinite (μ.trim hm)
  · filter_upwards with a using by simpa [condExp_of_not_sigmaFinite hm hsig]
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 17]
```diff
@@ -55,88 +56,104 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null ?_ ?_
+  <;> rintro - ⟨n, rfl⟩
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null ?_ ?_ <;>
    rintro - ⟨n, rfl⟩
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 18]
```diff
@@ -55,88 +56,104 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+    filter_upwards [h1, h2] with a ha hb
+    grw [← ha, hb, condExp_const hm]
+
+variable [Lattice E] [HasSolidNorm E] [IsOrderedAddMonoid E] [IsOrderedModule ℝ E]
+
+theorem ae_condExp_abs_le_abs_condExp (f : α → E) : |(μ[f | m])| ≤ᵐ[μ] μ[|f| | m] := by
+  by_cases! hfint : ¬Integrable f μ
+  · simp only [condExp_of_not_integrable hfint, abs_zero]
+    apply condExp_nonneg
+    filter_upwards with a using (abs_nonneg f a)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
    filter_upwards with a using abs_nonneg (f a)
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 19]
```diff
@@ -55,88 +56,104 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  have h1 := condExp_mono (m := m) hfint hfint.abs (.of_forall (fun x => le_abs_self f x))
+  have (x : α) := abs_neg (f x) ▸ le_abs_self (- f x)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
  have (x : α) := neg_le_abs (f x)
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 20]
```diff
@@ -55,88 +56,104 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+    ∫ x, μ[f | m] x ∂μ ≤ ∫ x, f x ∂μ := by
+  have h1 : ∫ x, |μ[f | m] x| ∂μ = ∫ x, μ[f | m] x ∂μ := by
+    apply integral_congr_ae
+    filter_upwards [condExp_nonneg hf] with ω hω
+    simpa
+  have h2 : ∫ x, |f x| ∂μ = ∫ x, f x ∂μ := by
+    apply integral_congr_ae
+    filter_upwards [hf] with ω hω
+    simpa
+  simpa [← h1, ← h2] using integral_abs_condExp_le f
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: This would be better with `calc` I think.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 21]
```diff
@@ -169,6 +186,108 @@ theorem ae_bdd_condExp_of_ae_bdd {R : ℝ≥0} {f : α → ℝ} (hbdd : ∀ᵐ x
...
+    apply integral_condExp_le_of_ae_nonneg
+    filter_upwards with ω using by positivity
+
+theorem integral_norm_condExp_le (f : α → E) : ∫ x, ‖μ[f | m] x‖ ∂μ ≤ ∫ x, ‖f x‖ ∂μ := by
+  by_cases! hfint : ¬ Integrable f μ
+  · simpa [condExp_of_not_integrable hfint] using integral_nonneg (fun x => norm_nonneg (f x))
+  simpa using integral_norm_condExp_rpow_le le_rfl (by simpa using hfint.norm)
+
+theorem setIntegral_norm_condExp_le {s : Set α} (hs : MeasurableSet[m] s) (f : α → E) :
+    ∫ x in s, ‖(μ[f | m]) x‖ ∂μ ≤ ∫ x in s, ‖f x‖ ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean:230]: Can't you avoid the case splitting here by first applying Jensen and then using `setIntegral_condExp_le_of_ae_nonneg`?

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 15 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: Currently `MemLp` is still required for this theorem because `¬ MemLp` is `¬ AEStronglyMeasurable` or `eLpNorm = ∞`.

In this Zulip post https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value they are discussing whether we should redefine `MemLp` so that `¬ MemLp` means `eLpNorm = ∞`.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 21 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean:230]: I proved `setIntegral_norm_condExp_rpow_le` (the set integral version of `integral_norm_condExp_rpow_le` and somehow it is not included in my initial PR) by following the approach you suggested, but it still requires case splitting.

**Comment by CoolRmal** [comment]
- awaiting-author

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 1 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: I don't know whether I should still do this. If they make `AEStronglyMeasurable` not part of the definition of `MemLp` then there is no need for me to prove this power of norm is `AEStronglyMeasurable` here.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean (hunk 15 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: But if `f` is not aestrongly measurable then it is not integrable so the left-hand side is 0.

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]: You are right, I updated the proof

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 22]
```diff
@@ -55,88 +56,105 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  · exact hm _ (measurableSet_spanningSets (μ.trim hm) n)
+  · have h1 := condExp_restrict_ae_eq_restrict hm (measurableSet_spanningSets (μ.trim hm) n) hfint
+    have h2 := condExp_mono (μ := μ.restrict (spanningSets (μ.trim hm) n)) (m := m)
+      hfint.restrict (integrable_const c) (ae_restrict_of_ae hfc)
+    filter_upwards [h1, h2] with a ha hb
+    grw [← ha, hb, condExp_const hm]
+
+variable [Lattice E] [HasSolidNorm E] [IsOrderedAddMonoid E] [IsOrderedModule ℝ E]
+
+theorem ae_condExp_abs_le_abs_condExp (f : α → E) : |(μ[f | m])| ≤ᵐ[μ] μ[|f| | m] := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
theorem abs_condExp_ae_le_condExp_abs (f : α → E) : |(μ[f | m])| ≤ᵐ[μ] μ[|f| | m] := by
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 23]
```diff
@@ -55,88 +56,105 @@ theorem rnDeriv_ae_eq_condExp {hm : m ≤ m0} [hμm : SigmaFinite (μ.trim hm)]
...
+  _ ≤ ∫ x in s, f x ∂μ := integral_condExp_le_of_ae_nonneg hf
+
+lemma setIntegral_condExp_le_of_ae_nonneg {s : Set α} (hs : MeasurableSet[m] s) {f : α → ℝ}
+    (hf : 0 ≤ᵐ[μ] f) :
+    ∫ x in s, μ[f | m] x ∂μ ≤ ∫ x in s, f x ∂μ :=
+  setIntegral_condExp_le_of_ae_restrict_nonneg hs (ae_restrict_le hf)
+
+/-- If `|f|` is bounded almost everywhere by `R`, then so is its conditional expectation. -/
+theorem ae_bdd_abs_condExp_of_ae_bdd_abs {R : E} {f : α → E} (hbdd : ∀ᵐ x ∂μ, |f x| ≤ R) :
+    ∀ᵐ x ∂μ,  |μ[f | m] x| ≤ R := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean]:
```suggestion
    ∀ᵐ x ∂μ, |μ[f | m] x| ≤ R := by
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean [hunk 24]
```diff
@@ -169,6 +187,119 @@ theorem ae_bdd_condExp_of_ae_bdd {R : ℝ≥0} {f : α → ℝ} (hbdd : ∀ᵐ x
...
+  by_cases! hf : MemLp f p μ
+  · rw [← ofReal_lpNorm hf, ← ofReal_lpNorm (hf.condExp hp)]
+    exact ENNReal.ofReal_le_ofReal (hf.lpNorm_condExp_le_lpNorm hp)
+  · simp only [MemLp, not_and, not_lt, top_le_iff] at hf
+    by_cases! ha : AEStronglyMeasurable f μ
+    · simp [hf ha]
+    · simp [condExp_of_not_integrable (fun h => ha h.aestronglyMeasurable)]
+
+theorem eLpNorm_one_condExp_le_eLpNorm (f : α → E) : eLpNorm (μ[f | m]) 1 μ ≤ eLpNorm f 1 μ :=
+    eLpNorm_condExp_le_eLpNorm f (refl 1)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Real.lean:300]: That does not seem very useful. Can you deprecate it in favor of `eLpNorm_condExp_le_eLpNorm`?

**Comment by CoolRmal** [comment]
-awaiting-author

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
